US07521457B2
a) (3-methoxy-4-nitro-phenyl)-(3-pyrrolidin-1-yl-propyl)-amine
1 g (5.884 mmol) 4-fluoro-2-methoxy-1-nitro-benzene, 975 mg (7.369 mmol) 1-(3-aminopropyl)pyrrolidine and 1.5 ml (8.765 mmol) diisopropyethylamine are dissolved in 5 ml dioxane and stirred for 24 h at 95° C. The solvents are eliminated in vacuo and the crude product is purified by column chromatography. The carrier used is silica gel and the eluant used is dichloromethane, to which 15% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution has been added.

reactant | 4-fluoro-2-methoxy-1-nitro-benzene | 5.884 mmol, 1 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 1-(3-aminopropyl)pyrrolidine | 7.369 mmol, 975 mg | NCCCN1CCCC1 | C7H16N2
reactant | diisopropyethylamine | 8.765 mmol, 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (3-methoxy-4-nitro-phenyl)-(3-pyrrolidin-1-yl-propyl)-amine | COC=1C=C(C=CC1[N+](=O)[O-])NCCCN1CCCC1 | C14H21N3O3
